US06090813
Benzylchloroformate (2.86 ml) was added to a stirred suspension of N-benzyl-3-n-butoxy carbonyl pyrrolidine (1.75 g) and sodium bicarbonate (2.52 g) in CH2Cl2 (30 ml). The reaction was stirred for 0.5 hours, filtered and the filtrate evaporated to give an oil. The residual oil was purified by chromatography on silica gel; elution with EtOAc/150.C6H14 (1/9 v/v) gave, as a pale yellow oil, N-Cbz-3-n-butoxycarbonyl pyrrolidine (1.40 g);

reactant | Benzylchloroformate | 2.86 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | N-benzyl-3-n-butoxy carbonyl pyrrolidine | 1.75 g | C(C1=CC=CC=C1)N1CC(CC1)C(=O)OCCCC | C16H23NO2
reactant | sodium bicarbonate | 2.52 g | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-Cbz-3-n-butoxycarbonyl pyrrolidine | 1.40 g | C(=O)(OCC1=CC=CC=C1)N1CC(CC1)C(=O)OCCCC | C17H23NO4
